US08669370B2
Synthesis of (S)-3-(2-Chloro-phenyl)-3-[(6-methoxy-5-phenyl-pyridine-3-carbonyl)-amino]-propionic acid (Example 353)
To a solution of 50 mg (0.13 mmol) of (S)-3-[(5-Chloro-6-methoxy-pyridine-3-carbonyl)-amino]-3-(2-chloro-phenyl)-propionic acid in 3 ml of DMF are added: 25 mg (0.21 mmol, 1.5 eq) phenylboronic acid, 60 mg Na2CO3 (0.56 mmol, 4.2 eq) and 10 mg (0.13 eq) DI-MICRO-CHLOROBIS[2-[(DIMETHYLAMINO)METHYL]PHENYL-C,N]DIPAL as catalyst. After the addition of 1 ml of water the resulting mixture is heated to 100° C. for 6 hours, the reaction is filtered via a pad of celite and the resulting solution subjected to preparative HPLC chromatography yielding 16 mg of product (Yield: 29%).

reactant | (S)-3-[(5-Chloro-6-methoxy-pyridine-3-carbonyl)-amino]-3-(2-chloro-phenyl)-propionic acid | 0.13 mmol, 50 mg | ClC=1C=C(C=NC1OC)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)Cl | C16H14Cl2N2O4
reactant | water | 1 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | phenylboronic acid | 0.21 mmol, 25 mg, 1.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Na2CO3 | 0.56 mmol, 60 mg, 4.2 eq | C(=O)([O-])[O-].[Na+].[Na+]
product | (S)-3-(2-Chloro-phenyl)-3-[(6-methoxy-5-phenyl-pyridine-3-carbonyl)-amino]-propionic acid | 16 mg, Yield: 29% | ClC1=C(C=CC=C1)[C@H](CC(=O)O)NC(=O)C=1C=NC(=C(C1)C1=CC=CC=C1)OC | C22H19ClN2O4
